US07355052B2
Stage 2: methyl 3-({3-[(tert-butoxycarbonyl)amino]propyl}amino)-4-nitrobenzoate
A mixture of methyl 3-fluoro-4-nitrobenzoate (5.8 g, 1 eq), N-Boc-1,3-diaminopropane (5.75 g, 1.1 eq) and potassium carbonate (8.04 g, 2 eq) in acetonitrile (200 ml) is heated under reflux for 2 hours then concentrated under reduced pressure at 40° C. The residue is taken up in dichloromethane (200 ml) and water (100 ml). After decantation and extractions, the combined organic phases are washed with salt water, dried over Na2SO4 then concentrated under reduced pressure at 40° C. The solid obtained is washed with petroleum ether and dried (10.2 g; 99% yield).

reactant | methyl 3-fluoro-4-nitrobenzoate | 5.8 g, 1 eq | FC=1C=C(C(=O)OC)C=CC1[N+](=O)[O-] | C8H6FNO4
reactant | N-Boc-1,3-diaminopropane | 5.75 g, 1.1 eq | C(=O)(OC(C)(C)C)NCCCN | C8H18N2O2
reactant | potassium carbonate | 8.04 g, 2 eq | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | methyl 3-({3-[(tert-butoxycarbonyl)amino]propyl}amino)-4-nitrobenzoate | 99% yield | C(C)(C)(C)OC(=O)NCCCNC=1C=C(C(=O)OC)C=CC1[N+](=O)[O-] | C16H23N3O6
